US04452790
C. 1-[(S)-2-Hydroxy-1-oxopropyl]-L-proline, phenylmethyl ester
A mixture of sodium lactate (1.7 g, 15.0 mmole), diphenyl phosphorylazide (3.6 ml, 16.5 mmole) and dry DMF (30 ml) at 0° C. (ice bath) in an argon atmosphere was treated with triethyl amine (2.1 ml, 15.2 mmole) and L-proline, phenylmethyl ester, hydrochloride salt (3.6 g, 15.0 mmole). After 24 hours, the reaction mixture was partitioned between EtOAc and H2O. The aqueous phase was back extracted, the organic extracts combined, washed with 5% KHSO4, brine, and evaporated. The residue (5.0 g) was chromatographed on silica (130 g) eluting the EtOAc/Hexane (1:1) to give the title compound (2.5 g, 9.0 mmole, 60% yield) as a white crystalline solid after evaporation, m.p. 86°-88° C.

reactant | sodium lactate | 15.0 mmole, 1.7 g | C(C(O)C)(=O)[O-].[Na+]
reactant | diphenyl phosphorylazide | 16.5 mmole, 3.6 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | 15.2 mmole, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | L-proline, phenylmethyl ester, hydrochloride salt | 15.0 mmole, 3.6 g | Cl.N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-[(S)-2-Hydroxy-1-oxopropyl]-L-proline, phenylmethyl ester | 9.0 mmole, 2.5 g, 60% yield | O[C@H](C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C | C15H19NO4
